datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC(C)=C([N:63]2[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N:63]2[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:31]3=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]3)[CH:41]=[CH:42][C:53]3=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]3)=[O:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10,11=10,20;12=11,12"
"C1C[C:20](=[O:21])CCO1.CCCC[P:10](CCCC)CCCC>>CCCC[P+:10](CCCC)(CCCC)[C:20]1([O-:21])CCOCC1 10=20;20,21=21"
"C1CC[N:12]([C:11]2=[CH:10]CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1>>C1CC[N+:12](=[C:11]2[CH:10]([CH2:20][C:21]3=[C:22]([O-:23])[O:33]CCC3)CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12]1CCOCC1)=[O:62].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC[N:82](CC)/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>CC[N:82](CC)[C:11]([CH:10]([CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][C:33]2=[C:34]3N(CCC2)CCC[C:35]3=[CH:36]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH:11]=[CH2:10]>>CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH+:11][CH2:10][CH:20](C1=CC=CC=C1)[CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[C:10](\F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>CC[O:62][C:11]([C:10](F)([CH:20](C#N)[CH:21]=[C:22]=[N-:23])[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[CH:20]1[CH:21]=[C:22]([O-:23])[O:43][C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C[Si:63](C)(Cl)[CH2:62][CH:11]=[CH2:10]>>C[Si:63](C)(Cl)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2 10,11=10,20"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72]>>C[C:20]1([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC[Ge:63](CC)(CC)[CH2:62][CH2:11][H:10].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[Ge:63](CC)(CC)[CH2:62][CH2+:11].C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](C)=[O:12])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C>>CC1=CC(C)=C(C(C)C[CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2[C@@H](CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10,11=10,20;12=11,12"
"C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].C[NH:10][NH:61]C>>C[NH+:10]([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[NH:61]C 10=20;20,21=21,22;22,23=23"
"CC[Ge:11](CC)(CC)[H:10].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC[Ge+:11](CC)CC.Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;20,21=21"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1>>CC(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
